US09260441B2
Step H: 5-Methyl-3-piperazin-1-yl-1,2,4-oxadiazole hydrochloride
To a solution of tert-butyl 4-(5-methyl-1,2,4-oxadiazol-3-yl)piperazine-1-carboxylate (507 mg, 1.890 mmol) in diethyl ether (12 mL) was added HCl, 4N in dioxane (7 mL, 28.0 mmol) and the reaction was stirred at room temperature over the weekend. The precipitate was isolated by filtration, washed with diethylether and dried under reduced pressure after which 330 mg of a white solid were obtained (1.612 mmol, 85%). MS (ESI) m/z=169.2 [M+1]+.

reactant | tert-butyl 4-(5-methyl-1,2,4-oxadiazol-3-yl)piperazine-1-carboxylate | 1.890 mmol, 507 mg | CC1=NC(=NO1)N1CCN(CC1)C(=O)OC(C)(C)C | C12H20N4O3
reactant | HCl | Cl | ClH
reactant | dioxane | 28.0 mmol, 7 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | 12 mL | C(C)OCC | C4H10O
product | 5-Methyl-3-piperazin-1-yl-1,2,4-oxadiazole hydrochloride | Cl.CC1=NC(=NO1)N1CCNCC1 | InChI=1S/C7H12N4O.ClH/c1-6-9-7(10-12-6)11-4-2-8-3-5-11;/h8H,2-5H2,1H3;1H
